US04340483
The copolymer glycidyl methacrylate-ethylene dimethacrylate was prepared according to Example 1, with the distinction that the monomer mixture consisted of 70% of glycidyl methacrylate and 30% of ethylene dimethacrylate and that the mixture was agitated during polymerization more vigorously (700 r.p.m.). The fraction of particles with diameter of 15-20 μm was separated from the resulting product, thoroughly dried and modified in the following way: 5 g of the copolymer was dispersed in 20 ml of stearoyl chloride and shaken at 20° C. for 4 hours, at 70° C. for 1.5 hours, and at 80° C. for 6 hours. The product after stearoylation contained 5.60% of chlorine. The column 200×8 mm was packed with this sorbent and used for separation of the mixture of aromatic hydrocarbons (benzene, diphenyl, anthracene, chrysene, and benzopyrene) by the method of liquid chromatography.

reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | ethylene dimethacrylate | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
product | glycidyl methacrylate ethylene dimethacrylate | C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OCCOC(C(=C)C)=O | InChI=1S/C10H14O4.C7H10O3/c1-7(2)9(11)13-5-6-14-10(12)8(3)4;1-5(2)7(8)10-4-6-3-9-6/h1,3,5-6H2,2,4H3;6H,1,3-4H2,2H3
